US07091222B2
4-[1-(2-Methoxy-ethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine
The title compound, MS: m/e=256.2 (M+H+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-bromoethyl-methylether.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 2-bromoethyl-methylether | BrCCOC | C3H7BrO
product | 4-[1-(2-Methoxy-ethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | COCCN1C(=NC(=C1)C#CC1=CC(=NC=C1)C)C | C15H17N3O
